US08557983B2
2-(4-(benzyloxy)phenoxy)-N,N-dimethylacetamide
The title compound was prepared by substituting 2-chloro-N,N-dimethylacetamide for 2-chloro-N,N-dimethylethanamine and 4-(benzyloxy)phenol for 3-(benzyloxy)phenol in EXAMPLE 39A.

reactant | 2-chloro-N,N-dimethylethanamine | ClCCN(C)C | C4H10ClN
reactant | 4-(benzyloxy)phenol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | 3-(benzyloxy)phenol | C(C1=CC=CC=C1)OC=1C=C(C=CC1)O | C13H12O2
product | 2-(4-(benzyloxy)phenoxy)-N,N-dimethylacetamide | C(C1=CC=CC=C1)OC1=CC=C(OCC(=O)N(C)C)C=C1 | C17H19NO3
